US07157455B2
A solution of piperidin-4-yl-carbamic acid tert-butyl ester (1.0 g, 5.0 mmol, Astratech, Inc.) and diisopropylethylamine (4 mL) in tetrahydrofuran (40 mL) was stirred at +5° C. To this was added methanesulfonyl chloride (1.0 g, 8.8 mmol) in a bolus. The reaction was brought to room temperature for 1 hour, poured into water and extracted into methylene chloride (2×50 mL). The combined organic extracts were washed with 5% aqueous sodium bicarbonate. The organic solution was dried (Na2SO4) and solvent was removed under vacuum to give a crude solid. Purification was by trituration with ether/hexane to give (1-methanesulfonyl-piperidin-4-yl)-carbamic acid tert-butyl ester as a white solid. Mass spectrum (ES) H+: 278 B) A suspension of (1-methanesulfonyl-piperidin-4-yl)-carbamic acid tert-butyl ester (1.14 g, 4.1 mmol, from Example 162, Step A) in methylene chloride (15 mL) was treated at room temperature with trifluoroacetic acid (5.3 mL). After stirring for 2 hours, all solvent was removed and the residue was triturated with ether. This was filtered, washed with ether and dried in vacuum to give 1.20 g of 1-methanesulfonyl-piperidin-4-ylamine; compound with trifluoro-acetic acid (100% yield). HRMS, observed: 177.0692; Calcd for M+: 177.0698

reactant | piperidin-4-yl-carbamic acid tert-butyl ester | 5.0 mmol, 1.0 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | diisopropylethylamine | 4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 8.8 mmol, 1.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (1-methanesulfonyl-piperidin-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)S(=O)(=O)C)=O | C11H22N2O4S
